US07531532B2
4-{4-[3-(2-Phenylacetyl)thioureido]phenoxy}-2-{[4-(pyrrolidin-1-yl)piperidin-1-yl]carbonylamino}pyridine
2-Phenylacetyl chloride (0.040 ml) was dissolved in acetonitrile (2.0 ml) under a nitrogen atmosphere, and then potassium thiocyanate (60 mg) was added thereto at 50° C., followed by stirring at the same temperature for 3 hrs. The acetonitrile was evaporated under a reduced pressure to give a residue, to which toluene (2.0 ml) and a saturated aqueous solution of sodium hydrogencarbonate (2.0 ml) were added, followed by stirring for 15 min. The toluene layer (0.7 ml) was added to a solution of 4-(4-aminophenoxy)-2-{[4-(pyrrolidin-1-yl)piperidin-1-yl]carbonylamino}pyridine (27 mg) and (S)-(+)-10-camphorsulfonic acid (32 mg) in ethanol (1.0 ml) at room temperature, followed by stirring for 30 min. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate). Fractions containing the target compound were concentrated under a reduced pressure to give a residue, which was then dried in vacuum to provide the titled compound (17.2 mg, 44%) as white powder.

reactant | 2-Phenylacetyl chloride | 0.040 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | potassium thiocyanate | 60 mg | [S-]C#N.[K+]
reactant | sodium hydrogencarbonate | 2.0 ml | C(O)([O-])=O.[Na+]
reactant | 4-(4-aminophenoxy)-2-{[4-(pyrrolidin-1-yl)piperidin-1-yl]carbonylamino}pyridine | 27 mg | NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)N2CCCC2)C=C1 | C21H27N5O2
reactant | (S)-(+)-10-camphorsulfonic acid | 32 mg | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | acetonitrile | 2.0 ml | C(C)#N | C2H3N
solvent | ethanol | 1.0 ml | C(C)O | C2H6O
solvent | toluene | 0.7 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2.0 ml | C1(=CC=CC=C1)C | C7H8
product | 4-{4-[3-(2-Phenylacetyl)thioureido]phenoxy}-2-{[4-(pyrrolidin-1-yl)piperidin-1-yl]carbonylamino}pyridine | 17.2 mg, 44% | C1(=CC=CC=C1)CC(=O)NC(NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)N2CCCC2)C=C1)=S | C30H34N6O3S
